US09062015B2
FS112: 4-[4-(5,5-Dimethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-1,3,5-triazin-2-yl]-piperazine-1-carboxylic acid tert-butyl ester
The preparation is carried out analogously to FS 102 starting from 4-(4-chloro-1,3,5-triazin-2-yl)piperazine-1-carboxylic acid tert-butyl ester (US 2005/59668) and 2-(5,5-dimethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane.

reactant | 4-(4-chloro-1,3,5-triazin-2-yl)piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=NC(=N1)Cl | C12H18ClN5O2
reactant | 2-(5,5-dimethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | CC1(C=2C=CC(=CC2CCC1)B1OC(C(O1)(C)C)(C)C)C | C18H27BO2
product | 4-[4-(5,5-Dimethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-1,3,5-triazin-2-yl]-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=NC(=N1)C1=CC=2CCCC(C2C=C1)(C)C | C24H33N5O2
